US09388189B2
(S)-2-(1-((6-Amino-5-(5-(difluoromethoxy)pyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (75 mg, 0.17 mmol) were added 48 mg (0.26 mmol) of (5-(difluoromethoxy)pyridin-3-yl)boronic acid, 13 mg (0.02 mmol) of 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex and 170 μl of a 2M aqueous solution of cesium carbonate in dioxane. The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The product was purified by flash chromatography (0% to 100% hexane/AcOEt, 0-8% AcOEt/MeOH) to give 70 mg (81% yield) of the title compound as a white solid.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.17 mmol, 75 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | (5-(difluoromethoxy)pyridin-3-yl)boronic acid | 0.26 mmol, 48 mg | FC(OC=1C=C(C=NC1)B(O)O)F | C6H6BF2NO3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(1-((6-Amino-5-(5-(difluoromethoxy)pyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 70 mg, 81% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C=2C=NC=C(C2)OC(F)F | C25H22F2N8O2
